US05514680
To a solution of 12.95 g (37.3 mmol) of 3,4-dibromo-(trifluoroacetamido)benzene in 150 mL of conc. H2SO4 cooled at 8° C. was added 7.0 mL of 70% HNO3 (110 mmol) over 30 min. After the addition, the stirring was continued within 10°-12° C. for 1 h and then poured into ice-water (600 mL). The precipitate was collected by vacuum filtration, washed with H2O (6×50 mL), dried at 40° C. under 1 mmHg for 12 h, affording 13.90 g (95%) of the crude product. It was crystallized from hexanes (about 180 mL) to give 10.05 g (69%) of 3,4-dibromo-2-nitro-(trifluoroacetamido)benzene. mp. 107°-9° C. IR (KBr) 3331, 3256, 1745, 1551, 1203, 1141 cm-1. 1H NMR (DMSO-d6) 11.834 (s, 1H), 8.448 (s, 1H), 8.082 (s, 1H).

reactant | 3,4-dibromo-(trifluoroacetamido)benzene | 37.3 mmol, 12.95 g | BrC=1C=C(C=CC1Br)NC(C(F)(F)F)=O | C8H4Br2F3NO
reactant | HNO3 | 110 mmol, 7.0 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 150 mL | OS(=O)(=O)O | H2O4S
product | 3,4-dibromo-2-nitro-(trifluoroacetamido)benzene | 10.05 g, 69% | BrC=1C(=C(C=CC1Br)NC(C(F)(F)F)=O)[N+](=O)[O-] | C8H3Br2F3N2O3
